US06642007B1
Description of Biotin Sselection for Antibodies Obtained Below
An aliquot of approximately 100 μl of mutated library stock was added to 25 ml of 2YT media containing 100 μg/ml ampicillin and 2% glucose. The culture was incubated at 37° C. for approximately 60 min or until cells reached mid-log phase (OD600 nm=0.5 to 1.0). M13K07 helper phage (Pharmacia, Uppsala, Sweden) was then added to the culture to a concentration of 5×108 pfu/ml. The helper phage were then allowed to infect the culture for 20 min at 37° C. without shaking and then for another 25 min at 37° C. with shaking at 200 rpm. The infected cells were transferred to a 50 ml conical centrifuge tube and pelleted at 3000 rpm for 10 min. Cells were resuspended in 2YT media containing 100 μg/ml ampicillin and 50 μg/ml kanamycin. This culture was transferred to a fresh 250 ml flask and incubated at 30° C. for 2 h during which time phage particles were produced. Cells were removed by centrifugation at 14,000 rpm for 2 min. Aliquots (1 ml) of phage were then blocked for 30 min at room temperature by the addition of PBS and NFDM to a final concentration of 1×PBS and 3% NFDM. This was accomplished by the addition of 200 μl of a 6×PBS, 18% NFDM solution to 1 ml of phage. Biotinylated peptide 040 (SEQ ID NO: 14) was added to the phage solution at concentrations ranging from 10 pM to 1 μM. This solution was incubated for 60 min at RT. Streptavidin-coated magnetic beads (Dynal, Oslo, Norway) were blocked at RT with end-over-end shaking in 3% NFDM in-PBS. Following incubation, the streptavidin beads were captured at the side of the tube with a magnet and the blocking solution carefully aspirated away. The blocked phage with the bound peptide was then added to the streptavidin beads and allowed to incubate at RT with end-over-end shaking for 15 min. Bead complexes were captured magnetically and unbound phage carefully aspirated away. Magnetic bound bead complexes were washed 4X with PBS containing 0.1% TW-20 and 4× with PBS alone. Following the final capture, bead complexes were resuspended in 100 μl of 100 mM triethylamine in PBS and neutralized with an equal volume of 1 M Tris pH 7.4. Mid-log phase E. coli TG1 cells (10 ml) were then infected with 100 μl of bead complexes. Infection was allowed to progress for 20 min at 37° C. without shaking and then for another 25 min at 37° C. with shaking at 200 rpm. Infected cells were then pelleted, resuspended in 500 μl of fresh 2YT media and 500 μl plated onto 243×243 mm 2YT agar plates containing 100 μg/ml ampicillin and 2% glucose. Plates were incubated overnight at 30° C. Following approximately 16 h of growth, the colonies were recovered by scraping and used to inoculate liquid cultures. The process was repeated for a minimum of two and a maximum of five rounds of selection.

reactant | ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | kanamycin | C1[C@H]([C@@H]([C@H]([C@@H]([C@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CN)O)O)O)O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)N)O)N | C18H36N4O11
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
